US07026324B2
Through a solution of (3-[1,2,4]triazol-1-yl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester (4.08 g) in CH2Cl2 (100 ml) and MeOH (20 ml) cooled to 0° C. was bubbled HCl (g) for 10 min. The flask was sealed and the reaction mixture was stirred at room temperature for 18 h. Nitrogen was bubbled through the reaction mixture for 5 min and the reaction mixture was concentrated to give C-(3[1,2,4]triazol-1-yl-pyridin-2-yl)-methylamine hydrochloride salt as a white solid. 1H NMR (CD3OD, 400 MHz) δ 9.67 (s, 1H); 8.85 (d, J=5.3 Hz, 1H); 8.72 (s, 1H); 8.18 (d, J=8 Hz, 1H); 7.7 (dd, J=5.3, 8 Hz, 1H); 4.45 (s, 2H).

reactant | (3-[1,2,4]triazol-1-yl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | 4.08 g | C(C)(C)(C)OC(NCC1=NC=CC=C1N1N=CN=C1)=O | C13H17N5O2
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 ml | CO | CH4O
product | C-(3[1,2,4]triazol-1-yl-pyridin-2-yl)-methylamine hydrochloride salt | Cl.N1(N=CN=C1)C=1C(=NC=CC1)CN | InChI=1S/C8H9N5.ClH/c9-4-7-8(2-1-3-11-7)13-6-10-5-12-13;/h1-3,5-6H,4,9H2;1H
